US05328794
To the above solvent, a mixture of 200 g of 2-ethylhexyl methacrylate, 10 g of glycidyl methacrylate and 3 g of azobisisobutyronitrile was added dropwise at a constant speed over a period of 3 hours, followed by stirring for 1 hour to complete the polymerization reaction. Thus, 2-ethylhexyl methacrylate - glycidyl methacrylate copolymer was obtained.

reactant | 2-ethylhexyl methacrylate | 200 g | C(C(=C)C)(=O)OCC(CCCC)CC | C12H22O2
reactant | glycidyl methacrylate | 10 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | azobisisobutyronitrile | 3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 2-ethylhexyl methacrylate - glycidyl methacrylate | C(C1CO1)OC(C(=C)C)=O.C(C(=C)C)(=O)OCC(CCCC)CC | InChI=1S/C12H22O2.C7H10O3/c1-5-7-8-11(6-2)9-14-12(13)10(3)4;1-5(2)7(8)10-4-6-3-9-6/h11H,3,5-9H2,1-2,4H3;6H,1,3-4H2,2H3
